US05356929
Preparation of 4',5'-Dihydropsoralen
A solution was prepared of 1.86 g (0.010 moles) of psoralen (7H-furo[3,2-g][1]benzopyran-7-one) in 200 ml of 95% ethanol, heated to reflux and treated by the addition of 5.0 ml of cyclohexene and a slurry of 5.0 g of 10% palladium on carbon in 30 ml of 95% ethanol. After 30 minutes of reflux with magnetic stirring the medium was filtered, evaporated in vacuo and the residue was recrystallized from 95% ethanol to give 1.36 g (72% yield) of tiny white needles, mp 198°-200° C.

reactant | psoralen | 0.010 moles, 1.86 g | C1=COC=2C1=CC3=C(C2)OC(=O)C=C3 | C11H6O3
reactant | cyclohexene | 5.0 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 5.0 g | [Pd] | Pd
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4',5'-Dihydropsoralen | 1.36 g, 72% yield | C1COC2=C1C=C3C=CC(=O)OC3=C2 | C11H8O3
